US07741479B2
To a solution of 4,4,4-trifluoro-3-oxobutanenitrile (1.40 g, 10.2 mmol) and p-toluensulfonic anhydride (4 g, 12.3 mmol) in 15 mL dichloromethane was added dropwise triethylamine (1.55 g, 15.3 mmol), and the resulting mixture stirred at room temperature overnight. The reaction mixture was quenched with water; the aqueous layer was back-extracted with dichloromethane. The combined organic layers were dried, and the solvent eliminated under vacuum. The crude product was purified by chromatographic column (silica gel, hexane:ethyl acetate 9:1) to afford 1.6 g of 3-cyano-1,1,1-trifluoroprop-2-en-2-yl 4-methylbenzenesulfonate as a yellow oil.

reactant | 4,4,4-trifluoro-3-oxobutanenitrile | 10.2 mmol, 1.40 g | FC(C(CC#N)=O)(F)F | C4H2F3NO
reactant | p-toluensulfonic anhydride | 12.3 mmol, 4 g | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
reactant | triethylamine | 15.3 mmol, 1.55 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 3-cyano-1,1,1-trifluoroprop-2-en-2-yl 4-methylbenzenesulfonate | 1.6 g | CC1=CC=C(C=C1)S(=O)(=O)OC(C(F)(F)F)=CC#N | C11H8F3NO3S
